US07405210B2
Preparation 101: 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S)-(tert-butyldimethylsilanyloxymethyl)-2-oxo-2-phenylethyl]amide
To a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S)-(tert-butyldimethylsilanyloxymethyl)-2-(S)-hydroxy-2-phenylethyl]amide (Preparation 100, 304 mg, 0.661 mmol) in dry DCM (10 mL) was added Dess-Martin periodinane (342 mg, 0.806 mmol). After stirring for 3 h at room temperature alkaline sodium thiosulfate solution was added (5.4 g Na2SO3 dissolved in 20 mL saturated NaHCO3 solution) and the emulsion vigorously stirred for an additional 30 min. Ethyl acetate (150 ml) was added and the aqueous layer removed. The organic layer was washed with brine (50 ml), dried (MgSO4) and concentrated to a residue which was purified by flash chromatography on silica gel (eluent: hexane/ethyl acetate:50/50) to give the title compound as colourless solid. m/z (ES+)=458.34 [M+H]+; RT=4.32 min.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S)-(tert-butyldimethylsilanyloxymethyl)-2-(S)-hydroxy-2-phenylethyl]amide | 0.661 mmol, 304 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H]([C@H](C1=CC=CC=C1)O)NC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C23H30ClN3O3Si
reactant | Dess-Martin periodinane | 0.806 mmol, 342 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | Na2SO3 | 5.4 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S)-(tert-butyldimethylsilanyloxymethyl)-2-oxo-2-phenylethyl]amide | [Si](C)(C)(C(C)(C)C)OC[C@@H](C(C1=CC=CC=C1)=O)NC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C23H28ClN3O3Si
